US07371749B2
3-Methyl-2-morpholin-4-ylmethyl-3H-imidazole-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide
Using 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine and 3-methyl-2-morpholin-4-ylmethyl-3H-imidazole-4-carboxylic acid phenyl ester, the title compound was obtained as off-white solid (21% yield). MS: m/e=473(M+H+), mp 244-246° C.

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | 3-methyl-2-morpholin-4-ylmethyl-3H-imidazole-4-carboxylic acid phenyl ester | C1(=CC=CC=C1)OC(=O)C=1N(C(=NC1)CN1CCOCC1)C | C16H19N3O3
product | 3-Methyl-2-morpholin-4-ylmethyl-3H-imidazole-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2N(C(=NC2)CN2CCOCC2)C)N2CCOCC2 | C22H28N6O4S
